US05710198
8.0 g (27.0 mmol) of thioxanthylium perchlorate [C. C. Price et al, J. Amer. Chem. Soc. 85, 2278 (1963)] are added to a well-stiffed mixture of 3.5 g (53.8 mmol) of potassium cyanide in 4 ml of water and 30 ml of methylene chloride under a nitrogen atmosphere. After one hour, the mixture is dried over potassium carbonate and filtered and the flitrate is concentrated on a vacuum rotary evaporator. Crystallization of the residue from isopropanol gives 5.5 g (91%) of 9-cyano-thioxanthene, melting point 103°-105° C., colourless needles (compound (103), Table I).

reactant | thioxanthylium perchlorate | 27.0 mmol, 8.0 g | Cl(=O)(=O)(=O)[O-].C1=CC=CC2=[S+]C3=CC=CC=C3C=C12
reactant | potassium cyanide | 53.8 mmol, 3.5 g | [C-]#N.[K+]
solvent | water | 4 ml | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 9-cyano-thioxanthene | 5.5 g, 91% | C(#N)C1C2=CC=CC=C2SC=2C=CC=CC12 | C14H9NS
